US07635700B2
To a stirred mixture of 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione (0.42 g, 1.4 mmol) in tetrahydrofuran (10 mL), was added benzyloxyacetyl chloride (0.75 mL, 4.8 mmol) and heated at 80° C. for three hours. The mixture was quenched with a few drops of methanol. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 2-benzyloxy-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-acetamide as a white solid (280 mg, 47% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 6.46 min (99.2%); mp, 272-274° C.; 1HNMR (DMSO-d6) δ 2.17-2.22 (m, 1H, CHH), 2.65-2.93 (m, 6H, CHCH2, CH3), 4.13-4.30 (dd, J=15, 36 Hz, 2H, CH2), 4.64 (s, 2H, CH2), 5.33 (dd, J=5, 11 Hz, 1H, CH), 7.25-8.68 (m, 8H, Ar), 11.10 (s, 1H, NH), 12.48 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.62, 23.38, 30.83, 56.93, 70.17, 72.80, 107.95, 115.38, 120.97, 127.47, 127.53, 128.13, 135.52, 137.33, 138.95, 147.90, 154.90, 162.73, 168.94, 169.28, 172.51, 172.62. LCMS MH=435; Anal Calcd For C23H22N4O5+0.6H2O: C, 62.04; H, 5.25; N, 12.58. Found: C, 61.82; H, 4.90; N, 12.49.

reactant | 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 1.4 mmol, 0.42 g | NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H14N4O3
reactant | benzyloxyacetyl chloride | 4.8 mmol, 0.75 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-benzyloxy-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-acetamide | 280 mg, 47% yield | C(C1=CC=CC=C1)OCC(=O)NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C23H22N4O5
